US03987160
Salicylamide (27.4 g.) and decyl bromide (48.3 ml.) were added to a solution of sodium (4.6 g.) in ethanol (175 ml.) and the mixture was heated to reflux with stirring for 2.25 hours. Most of the ethanol was removed by evaporation in vacuo and the residue was poured into water (350 ml.). The oil which separated solidified, and was filtered off and triturated with 2N sodium hydroxide (150 ml.). The solid was filtered off, washed with water (100 ml.), dried over phosphoric oxide, and recrystallised from light petroleum (b.p. 40°-60° C.) to give 2-decyloxybenzamide (40.5 g.), m.p. 58°-59° C.

reactant | Salicylamide | 27.4 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | decyl bromide | 48.3 ml | C(CCCCCCCCC)Br | C10H21Br
reactant | sodium | 4.6 g | [Na] | Na
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 2-decyloxybenzamide | 40.5 g | C(CCCCCCCCC)OC1=C(C(=O)N)C=CC=C1 | C17H27NO2
